US06649600B1
3-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionamide
To a solution of 3-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[2.2.2]oct-1-yl]-propionic acid (510 mg, 1.22 mmol) and HATU (1.1 eq, 1.34 mmol, 511 mg) in DMF (10 ml) was added Hunig's base (1.3 eq, 1.60 mmol, 205 mg). After the resulting suspension had been stirred for 1 h, excess ammonia (0.5 M in dioxane, 4.0 ml) was added and the mixture was stirred overnight (14 h). The solvent was removed in vacuo and the resulting residue was partitioned between CH2Cl2 (10 ml) and 1 N HCl (10 ml) with the aid of 2 ml MeOH to assist in the transfer and improve solubility. The aqueous phase was extracted with CH2Cl2 (2×10 ml), the combined organic phases were washed with 1 N HCl (2×10 ml), dried (MgSO4), filtered and evaporated in vacuo to give an off-white solid (455 mg, 90%). MS: 416 (MH+).

reactant | 3-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[2.2.2]oct-1-yl]-propionic acid | 1.22 mmol, 510 mg | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)CCC(=O)O)=O)CCC | C22H32N4O4
reactant | HATU | 1.34 mmol, 511 mg, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig's base | 1.60 mmol, 205 mg, 1.3 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonia | 0.5 M, 4.0 ml | N | H3N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-propionamide | 455 mg, 90% | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)CCC(=O)N)=O)CCC | C22H33N5O3
